Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache, fever, cough
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ is a ___ G5P4 woman @ ___ with h/o substance 
abuse transfered from ___ with headache, fever, 
cough, new oxygen requirement and hypotension concerning for 
sepsis. Per records patient reported respiratory symptoms over 
___ days including productive cough with brown sputum and 
chills/sweats with fever to 103 on ___ at home for which she 
took tylenol. Painful respiration and body aches. Pt also 
reporting migraine headache.

At ___ 102.6 HR 132 BP ___ RR 32 97% RA -> 98%2L. 
Labs notable for Na 128, K 2.9, Co2 20, Ca 7.9. UA with larege 
blood, 51-100 RBCs, ___ WBC, cloudy, 100 protein, moderate 
bacteria, ___ hyaline casts. CBC revealed 13.2>22.1<257, 82% 
N,6% bands. Rapid strep screen neg. Presumptive neg for 
influenza. Her CXR was concerning for RLL PNA. She received 
Ceftriaxone 1g 0200, Vancomycin 1g @ 0245 and 1.5-2L NS. Her 
Utox was pos for benzos (prescribed Xanax), opiates, oxycodone 
(per pt took neighbors percocet for headache), and cannabinoids 
(per pt fiance smokes MJ). The patient was transferred to ___ 
for further management. 

 
In the ED, initial VS were: 98.0 128 90/42 26 97% 2L. Patient 
was AOOx 3 but slow to respond. MAPs initially in mid ___ with 
BPs ___. She received about 4L NS with minimal response. 
Patient was  started on Norepinephrine at 0.03mc for hypotension 
with subsequent BPs 100/50s and MAPs in ___. A FAST u/s in ED 
revealed collapsed IVC c/w hypovolemia, no pericardial effusion. 
Urinalysis with + ___, few bacteria. Blood gas showing acidosis 
with normal lactate. Her presentation c/f pneumosepsis and 
antibiotics were broadened to Cefepime, Azithromycin 500mg for 
coverage of pseudomonas (given h/o substance abuse) and atypical 
organisms.  A right IJ catheter was placed w/o complications. 
CVP at 5:30am was 15. Patient's HCT was noted to be 19 with 
unknown baseline. 2U PRBCs ordered in ED with goal HCT>12. 
Patient also complaining of chest pain with inspiration and at 
site of IJ for which she received fentanyl 50mcg x 2.In ___ ED 
she also received K repletion. Rectal exam in ED with brown 
stool and faintly + guiaic. OB ultrasound in ED revealed fetal 
HR of 147. Urine output in ED: 3500cc. 3.5L NS in ED here and 2L 
at OSH per nursing.  VS prior to transfer: BPs ___, 130s on 
levofed 0.06. 
 
On arrival to the MICU, patient was in apparent severe distress. 
HR 124, RR 33, 97%, 112/71 (on Levophed), 97.6. Patient reports 
that her son recently had a lobar pna treated with Amoxicillin. 
She also reports headaches, teeth pain, eye pain, neck pain, 
chest pain, inability to take deep breaths.  

 
Past Medical History:
-___ s/p SVD x 2, 40wks and 36w5d, largest baby 7#
- cesarean section x 2, FT, NRFHT indication for first c/s
- migraines 
-carpal tunnel syndrome 
-anemia

 
Social History:
- Tobacco:  ___ PPD 
- Illicits: marijuana, ?opoids,  

 
Physical Exam:
Physical exam at admission:
Vitals: T:97.6 HR 124, RR 33, 97%, 112/71 (on Levophed)
General: A and O x3, in acute distress
HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear, 
EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact 

 
Pertinent Results:
Labs at admission:

___ 04:25AM BLOOD WBC-10.0 RBC-2.30* Hgb-6.8* Hct-19.7* 
MCV-86 MCH-29.4 MCHC-34.3 RDW-14.6 Plt ___
___ 04:25AM BLOOD Neuts-86.0* Lymphs-7.7* Monos-5.9 Eos-0.3 
Baso-0.1
___ 08:11AM BLOOD ___ PTT-35.6 ___
___ 04:25AM BLOOD Glucose-101* UreaN-6 Creat-0.5 Na-133 
K-3.0* Cl-105 HCO3-16* AnGap-15
___ 04:25AM BLOOD Calcium-6.8* Phos-2.1* Mg-1.4*
___ 04:45AM BLOOD Type-ART Temp-37.0 pO2-104 pCO2-26* 
pH-7.43 calTCO2-18* Base XS--4
___ 04:45AM BLOOD Lactate-1.4 K-2.7*
___ 09:24AM BLOOD freeCa-0.97*

Imaging:
Renal US ___:
IMPRESSION: 
Mild right hydronephrosis and proximal hydroureter, which can be 
seen in the setting of pregnancy, but other obstructive process, 
such as ureteral stone, cannot be excluded.  No sonographic 
evidence for pyelonephritis but limited visualization of the 
left kidney.   
  
If needed, further evaluation could be performed with MRI to 
identify level of right ureteral obstruction or compression.  
  
Updated findings and recommendations were discussed with ___ 
___ by 
___ by phone at 8:51 p.m. on ___ at the 
time of 
attending radiologist review.   

CXR ___:
There is an endotracheal tube whose distal tip is 3.1 cm above 
the carina.  There is a right IJ central line with distal tip in 
the proximal right atrium. This could be pulled back 2 to 3 cm 
for more optimal placement.  There are again seen low lung 
volumes and diffuse airspace opacities bilaterally. This is 
consistent with pneumonia given the patient's Gram negative 
cocci bacteremia and sepsis.  There is a nasogastric tube whose 
tip and side port are below the gastroesophageal junction and 
there is a single loop within the distal NG tube.  No 
pneumothoraces are present. 

CXR ___:
As compared to the previous radiograph, there is a decrease in 
lung 
volume, and subsequently, an increase in overall lung density.  
The severity of the pre-existing opacities, should not have 
substantially changed in the interval.  Lung volumes remain low. 
 Moderate cardiomegaly, no evidence of pleural effusions or 
pneumothorax. 

ECHO ___:
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is mild 
pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion.   
 
Brief Hospital Course:
___ G5P4 woman @ ___ with h/o substance abuse presenting with 
sepsis, likely urinary source, which triggered respiratory 
failure requiring intubation.

 #) Respiratory failure: Patient was intubated for increased 
work of breathing in the setting of sepsis from a urinary 
source.  There was some concern for ARDS given findings on CXR, 
although fluid overload from massive resuscitation was probably 
more likely.  She was put on an insulin gtt and diuresed once 
she was intravascularly resuscitated.  During her course on the 
ventilator, there was some difficulty extubating her due to 
agitation off sedatives, however we were able to wean her 
sedation effectly and extubate her.  She was able to respire on 
room air after extubation and her meds were switched to PO

#) Enterococcos faecalis in urine/bacteremia: Urine cx from here 
and OSH cx consistent with UTI, which may have triggered her 
respiratory failure. She was initially covered with broad 
spectrum antibiotics (Vancomycin, azithromycin, and 
ceftriaxone), but then switched to Ampicillin once the pathogen 
was speciated and susceptibilities were obtained.  She will be 
treated for a 14 day course through ___

#) Yeast fungal infection: Based on PE she had labial swelling 
and exudates around her vagina. Seen by wound care. Started PO 
fluconazole x1 in addition to topical agents and lidoderm cream

#) Wide complex tachycardia: Patient had 1 run of NSVT.  K and 
Mg were normal. Phos was repleted and resolved. 

#) Anxiety: Patient was reportedly on standing Ativan which we 
continued while in the FICU 

#) Diarrhea: Differential Cdiff infection vs Iatrogenic (bowel 
reg) vs withdrawal
 F/u Cdiff

# Pregnancy: Patient evaluated by OB in ED. Rh neg s/p rhogam 
___ for spotting. She was late to prenatal care - 17wks. 
Planning rpt c/section..  Non-stress tests were been normal 
throughout her stay in the ___.  Received 2 doses of 
betamethasone for fetal lung maturation in case of urgent 
delivery.  We kept O2 sats at 100% in pregnancy in ICU setting; 
PaCO2 with goal to stay in 20's. 

# Anemia: Hct 19 on presentation. Baseline anemia with hct 29 at 
prenatal appointment. HCt at OSH was 26.  Hemolysis labs 
negative. No signs of active bleed
 
#headaches/pain: has migraines at baseline and complains of 
worsening myalgias

- will wean sedation today and assess her pain 

 

# Substance abuse

- social work consult

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 2 mg PO TID 
2. TraMADOL (Ultram) 100 mg PO TID 
3. Adderall *NF* (amphetamine-dextroamphetamine) 20 mg Oral 
daily 
4. Ropinirole 1 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sepsis from a urinary tract infection (urosepsis)
acute respiratory distress syndrome with possible superimposed 
pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have decided to leave against medical advice.  You were 
admitted with a urosepsis (bacterial infection in your blood 
from a urinary tract infection) and respiratory distress 
requiring intubation.  You have not received the recommended 
antibiotic course.  We recommend that you receive a 14day course 
of IV antibiotics (to be completed ___.  As you are 
leaving prior to completion we will send you home on a course of 
oral antibiotics.  It is very important that you complete this 
course of antibiotics.  You will also need to take an antibiotic 
daily following completion of the antibiotic course in order to 
prevent subsequent infections.  

You are to be seen at your primary OB/GYN today per your 
arrangements.  You should also be sure to call your doctor 
immediately if you have fevers, chills, difficulty breathing, 
shortness of  breath, chest pain, trouble with urination, 
contractions, loss of fluid, vaginal bleeding, decreased 
movement.
 
Followup Instructions:
___